US08865736B2
2,6-Difluoro-3-[4-(3-hydroxy-phenyl)-thiazol-2-ylmethoxy]-benzamide
A solution of 2,6-Difluoro-3-[4-(3-methoxy-phenyl)-thiazol-2-ylmethoxy]-benzamide (0.20 g, 0.53 mmol) in 15 ml of DCM was cooled to −78° C. followed by addition of BBr3 (0.20 ml, 2.14 mmol). The reaction mixture was stirred at 25° C. for 2 h. After the completion of the reaction mixture (TLC monitoring), solution of NaHCO3 (20 mL) was added at 0° C. and extracted with ethyl acetate (3×50 mL). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated. The residue was purified by column chromatography on silica (60-120 M) using ethyl acetate/hexane (50:50) as the eluent to provide the title compound as white solid (0.065 g, 33%). 1H NMR (DMSO-d6, 400 MHz): δ 5.60 (s, 2H), 6.74 (m, 1H), 7.10 (m, 1H), 7.24 (m, 1H), 7.37-7.45 (m, 3H), 7.90 (br s, 1H), 8.10 (s, 1H), 8.17 (br s, 1H) and 9.55 (s, 1H). MS ES+ (362.99), HPLC (method II) Rt=14.95 min.

reactant | 2,6-Difluoro-3-[4-(3-methoxy-phenyl)-thiazol-2-ylmethoxy]-benzamide | 0.53 mmol, 0.20 g | FC1=C(C(=O)N)C(=CC=C1OCC=1SC=C(N1)C1=CC(=CC=C1)OC)F | C18H14F2N2O3S
reactant | BBr3 | 2.14 mmol, 0.20 ml | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 2,6-Difluoro-3-[4-(3-hydroxy-phenyl)-thiazol-2-ylmethoxy]-benzamide | 0.065 g, 33% | FC1=C(C(=O)N)C(=CC=C1OCC=1SC=C(N1)C1=CC(=CC=C1)O)F | C17H12F2N2O3S
